US03991068
N'-(4-((3,6-dichloro-2-pyridinyl)methoxy)phenyl)-N-methoxy-N-methyl urea
Triethylamine (4.55 grams; 0.045 mole) was added to a solution of O,N-dimethylhydroxylamine hydrochloride (4.1 grams; 0.042 mole) in 40 ml. of dry pyridine. 3,6dichloro-2-((4-isocyanatophenoxy)methyl)pyridine (12.4 grams; 0.042 mole) was added thereto and the resulting mixture heated for 20 minutes at about 60° C. The reaction mixture was then mixed with ice and the resulting precipitate recovered by filtration and recrystallized from a benzene-hexane (90:10) mixture. As a result of such operations, the desired N'-(4-((3,6-dichloro-2-pyridinyl)methoxy)phenyl)-N-methoxy-N-methyl urea compound was recovered as a crystalline solid having a melting point of 152°-153.5° C.

reactant | Triethylamine | 0.045 mole, 4.55 grams | C(C)N(CC)CC | C6H15N
reactant | O,N-dimethylhydroxylamine hydrochloride | 0.042 mole, 4.1 grams | Cl.CONC
reactant | 3,6dichloro-2-((4-isocyanatophenoxy)methyl)pyridine | 0.042 mole, 12.4 grams | ClC=1C(=NC(=CC1)Cl)COC1=CC=C(C=C1)N=C=O | C13H8Cl2N2O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N'-(4-((3,6-dichloro-2-pyridinyl)methoxy)phenyl)-N-methoxy-N-methyl urea | ClC=1C(=NC(=CC1)Cl)COC1=CC=C(C=C1)NC(N(C)OC)=O | C15H15Cl2N3O3
